**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Line Frequency Current Sense Transformer 
* Matchcode:              WE-CSTLF 
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Emil     
* Date and Time:          2024-05-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt CSTLF_EI187_7492550500 P+ P- S+ S-
.param N=500
.param Lsec=1.23H
.param Lleaks=129mH
.param DCRs=15.496R
.param DCRp=0.22m
.param Cps=12.06pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******
.subckt CSTLF_EI187_7492551000 P+ P- S+ S-
.param N=1000
.param Lsec=4.51H
.param Lleaks=503mH
.param DCRs=75R
.param DCRp=0.22m
.param Cps=12.94pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******
.subckt CSTLF_EI187_7492551500 P+ P- S+ S-
.param N=1500
.param Lsec=9.73H
.param Lleaks=1300mH
.param DCRs=172.3R
.param DCRp=0.22m
.param Cps=13.7pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******
.subckt CSTLF_EI187_7492552000 P+ P- S+ S-
.param N=2000
.param Lsec=16.28H
.param Lleaks=1740mH
.param DCRs=301.5R
.param DCRp=0.22m
.param Cps=14.87pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******
.subckt CSTLF_EI187_7492552500 P+ P- S+ S-
.param N=2500
.param Lsec=24.62H
.param Lleaks=3228mH
.param DCRs=451.4R
.param DCRp=0.22m
.param Cps=13.51pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******
.subckt CSTLF_EI187_7492553000 P+ P- S+ S-
.param N=3000
.param Lsec=32.94H
.param Lleaks=3960mH
.param DCRs=723R
.param DCRp=0.22m
.param Cps=14.61pF
.param Lpri={Lsec/N/N}
.param coupling={sqrt(1-Lleaks/Lsec)}
 
L1 P+ N1 {Lpri} 
Rser1 N1 P- {DCRp} 
Cpar1 P+ P- {Cps*N*N*0.5}

L2 S+ N2 {Lsec} 
Rser2 N2 S- {DCRs} 
Cpar2 S+ S- {Cps*0.5}

K1 L1 L2 {coupling}
.ends
******